US04775688
5-(4-Chlorophenyl)-2,4-Dimethyl-3H-1,2,4-Triazole-3-Thione
The 1:1 mixture of 1-(4-chlorobenzoyl)-2,4-dimethylthiosemicarbazide and pyridine hydrochloride (3.61 g of mixture) from Example 2 and 1 molar aqueous NaHCO3 (100 ml, 1.00×10-1 mole) were stirred and warmed to reflux. After refluxing for 5 hours the reaction was allowed to cool. It was then placed in a refrigerator for several hours before the precipitate was collected by filtration. The collected material was dried partially by suction before being transferred to a desiccator where it was dried at high vacuum. This affords the desired product as a beige powder: 2.01 g (84%). This was purified by flash chromatography and subsequent crystallization from isopropanol yielding small, slightly yellowish plates: 1.74 g (73%), mp 113°-115° C.

reactant | 1-(4-chlorobenzoyl)-2,4-dimethylthiosemicarbazide | ClC1=CC=C(C(=O)NN(C(=S)NC)C)C=C1 | C10H12ClN3OS
reactant | pyridine hydrochloride | 3.61 g | Cl.N1=CC=CC=C1
reactant | NaHCO3 | 1.00×10-1 mole, 1 molar, 100 ml | C(=O)(O)[O-].[Na+]
product | 5-(4-Chlorophenyl)-2,4-Dimethyl-3H-1,2,4-Triazole-3-Thione | ClC1=CC=C(C=C1)C=1N(C(N(N1)C)=S)C | C10H10ClN3S
